US04003927
3-(3,4-Dichloro-5-methoxyphenyl)propanol
Lithium aluminum hydride (1.2 g., 0.032 mole) is suspended in dry ether (100 ml.) in a flask equipped with a stirrer, upright condenser and dropping funnel and protected from moisture. To this is added dropwise with stirring a solution of ethyl 3,4-dichloro-5-methoxycinnamate (4.3 g., 0.0156 mole) in dry ether (150 ml.) over a twenty minute period. The mixture is stirred for an additional 30 minutes. Then with vigorous stirring, 1.2 g. of water is added carefully followed by 15% sodium hydroxide (1.5 ml.) and an additional 4.5 ml. of water. The ether solution is filtered from the granular inorganic salts which then are washed with additional ether. The combined ether solutions are washed with water and dried (Na2SO4). Upon evaporation of the ether 3-(3,4-dichloro-5-methoxyphenyl)propanol remains.

reactant | Lithium aluminum hydride | 0.032 mole, 1.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 3,4-dichloro-5-methoxycinnamate | 0.0156 mole, 4.3 g | ClC=1C=C(C=CC(=O)OCC)C=C(C1Cl)OC | C12H12Cl2O3
reactant | water | O | H2O
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 150 ml | CCOCC | C4H10O
product | 3-(3,4-Dichloro-5-methoxyphenyl)propanol | ClC=1C=C(C=C(C1Cl)OC)CCCO | C10H12Cl2O2
